US04716238
Preparation of 5-methoxy-8-sec.butoxy-2,2-dimethyl-2H-chromene
5.8 g (22 millimoles) of 2-prenyl-3-methoxy-5-sec.butoxy-phenol are dissolved in 100 ml of dichloro methane, whereupon 5 g (22 millimoles) of N-iodo-succinimide are added. The reaction mixture is stirred at 30° C. for 1 hour, diluted with 200 ml of water, the organic phase is separated washed with a 5% sodium thiosulfate solution, dried and evaporated. The residue is dissolved in 100 ml of a 10% methanolic sodium hydroxide solution and allowed to stand at 50° C. for 2 hours. The solution is diluted with water and extracted with ether. The organic phase is washed subsequently with a 1% hydrochloric acid solution and water, the solvent is removed and the product purified as described in Example 3. Thus 5.5 g of the desired compound are obtained in the form of a light yellow oil. Yield: 95%.

reactant | 2-prenyl-3-methoxy-5-sec.butoxy-phenol | 22 millimoles, 5.8 g | C(C=C(C)C)C1=C(C=C(C=C1OC)OC(C)CC)O | C16H24O3
reactant | N-iodo-succinimide | 22 millimoles, 5 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | dichloro methane | 100 ml | ClCCl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | 5-methoxy-8-sec.butoxy-2,2-dimethyl-2H-chromene | 5.5 g, Yield: 95% | COC1=C2C=CC(OC2=C(C=C1)OC(C)CC)(C)C | C16H22O3
